US04616015
A mixture of 6-(4-aminophenyl)-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one (2.04 g), 1,4-dibromobutane (2.59 g), potassium carbonate (0.35 g) and potassium iodide (0.5 g) in DMF (10 ml) was heated at 80° C. for 5 hours under stirring, and then evaporated in vacuo. After addition of 30% aqueous methanol to the residue, the resulting precipitates were collected by filtration and recrystallized from a mixture of methanol and chloroform (7:3) to give 6-(4-pyrrolidinophenyl)-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one (0.65 g).

reactant | 6-(4-aminophenyl)-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one | 2.04 g | NC1=CC=C(C=C1)C=1C(NC(NN1)=O)C | C10H12N4O
reactant | 1,4-dibromobutane | 2.59 g | BrCCCCBr | C4H8Br2
reactant | potassium carbonate | 0.35 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.5 g | [I-].[K+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 6-(4-pyrrolidinophenyl)-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one | 0.65 g | N1(CCCC1)C1=CC=C(C=C1)C=1C(NC(NN1)=O)C | C14H18N4O
